US07691850B2
b) [((3S)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine
To a solution of phenylmethyl[((3S)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate (0.13 g, 0.29 mmole) in MeOH (50 mL) was added Pd(OH)2 (100 mg). The reaction contents were placed under a balloon of H2 and stirred for 18 hours. The reaction contents were filtered through Celite (MeOH) and concentrated under vacuum to give the title compound (66 mg, 76%) as a light yellow oil: LC-MS (ES) m/e 305 (M+H)+.

reactant | phenylmethyl[((3S)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate | 0.29 mmole, 0.13 g | C1(=CC=CC=C1)COC(NC[C@H]1CN(CC1)CCC1=C(C=NC2=CC=C(N=C12)OC)F)=O | C24H27FN4O3
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd(OH)2 | 100 mg | [OH-].[OH-].[Pd+2]
product | [((3S)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine | 66 mg, 76% | FC=1C=NC2=CC=C(N=C2C1CCN1C[C@@H](CC1)CN)OC | C16H21FN4O
